US06165944
At reflux temperature, 1.5 g (4.7 mmol) of methyl 2-chloro-4-methylsulfonyl-3-(1,3,4-oxadiazol-2-yl)benzoate in 50 ml of pyridine were added dropwise to 2.5 g (18.9 mmol) of lithium iodide in 50 ml of pyridine, and the mixture was heated under reflux until the reaction had gone to completion. The mixture was cooled, the solvent was removed, the residue was taken up in water, insoluble components were filtered off and the mixture was acidified using hydrochloric acid and extracted with methylene chloride or ethyl acetate. The combined organic phases were dried and concentrated. 1.2 g (86% of theory) of 2-chloro-4-methylsulfonyl-3-(1,3,4-oxadiazol-2-yl)benzoic acid were obtained.

reactant | methyl 2-chloro-4-methylsulfonyl-3-(1,3,4-oxadiazol-2-yl)benzoate | 4.7 mmol, 1.5 g | ClC1=C(C(=O)OC)C=CC(=C1C=1OC=NN1)S(=O)(=O)C | C11H9ClN2O5S
reactant | lithium iodide | 18.9 mmol, 2.5 g | [I-].[Li+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-4-methylsulfonyl-3-(1,3,4-oxadiazol-2-yl)benzoic acid | 1.2 g, 86% | ClC1=C(C(=O)O)C=CC(=C1C=1OC=NN1)S(=O)(=O)C | C10H7ClN2O5S
